US09290517B2
[(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(4-pyrrolidin-1-ylphenyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane
1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichlormethane complex (17.1 mg, 0.021 mmol) was added to a stirred suspension of [(3R,3aR,6R,6aS)-3-(1-allyl-6-chloro-5-iodo-imidazo[4,5-b]pyridin-2-yl)oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (99.8 mg, 0.173 mmol), 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidine (59.6 mg, 0.218 mmol), and tripotassium phosphate (225.0 mg, 1.060 mmol) in dioxane (1.38 ml) and water (0.35 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 80° C. After 15 hours, the reaction mixture was cooled to room temperature. The reaction mixture was partitioned between EtOAc (40 ml) and water (40 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine, dried over MgSO4, filtered, and evaporated under reduced pressure to give an amber residue. This residue was dissolved in DCM, loaded onto a 5 g silica solid load cartridge and purified using an ISCO Rf and a 4 g silica column (CV=4.8 ml). The column was eluted as follows: 100% hexane (5 CV), 0-30% EtOAc/hexane gradient (70 CV), 30% EtOAc/hexane (21 CV) at 18 ml/min. The product fractions were combined and evaporated under reduced pressure to give the title compound as a yellow residue. LC-MS: calculated for C31H41ClN4O4Si 596.26 observed m/e: 597.39 (M+H)+ (Rt 1.34/2 min).

reactant | [(3R,3aR,6R,6aS)-3-(1-allyl-6-chloro-5-iodo-imidazo[4,5-b]pyridin-2-yl)oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.173 mmol, 99.8 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)I)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C21H29ClIN3O4Si
reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidine | 0.218 mmol, 59.6 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCCC1)C | C16H24BNO2
reactant | tripotassium phosphate | 1.060 mmol, 225.0 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.38 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.35 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(4-pyrrolidin-1-ylphenyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2CCCC2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C31H41ClN4O4Si
